US07402684B2
(S)-2-[(4-Benzylphenoxy)ethyl]-piperidine-1-carboxylic acid tert-butyl ester:
To a solution of (S)—N-Boc-piperidine-2-ethanol (1.00 g, 4.36 mmol), 4-hydroxydiphenylmethane (0.884 g, 4.79 mmol), and triphenylphosphine (1.26 g, 4.80 mmol) in anhydrous tetrahydrofuran (40 mL) at 0° C. under an atmosphere of nitrogen was added diisopropyl azodicarboxylate (0.92 ml, 4.80 mmol), and the resulting mixture was stirred at ambient temperature for about 20 h. The clear, yellow solution was concentrated in vacuo. The crude liquid was purified by silica gel flash chromatography to obtain the title compound as a clear, yellow oil (1.20 g, 70%): 1H NMR (400 MHz; CDCl3) δ 7.35 (m, 2H), 7.17 (m, 3H), 7.07 (d, 2H, J=8.8 Hz), 6.79 (d, 2H, J=8.8 Hz), 4.46 (m, 1H), 3.97 (m, 5H), 2.80 (br t, 1H, J=13.2 Hz), 2.12 (m, 1H), 1.85 (m, 1H), 1.60 (m, 5H), 1.40 (m, 10H). MS, m/z 418 (M+Na)+.

reactant | (S)—N-Boc-piperidine-2-ethanol | 4.36 mmol, 1.00 g | C(=O)(OC(C)(C)C)N1[C@@H](CCCC1)CCO | C12H23NO3
reactant | 4-hydroxydiphenylmethane | 4.79 mmol, 0.884 g | C=1C=CC(=CC1)CC=2C=CC(=CC2)O | C13H12O
reactant | triphenylphosphine | 4.80 mmol, 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 4.80 mmol, 0.92 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (S)-2-[(4-Benzylphenoxy)ethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCOC1=CC=C(C=C1)CC1=CC=CC=C1 | C25H33NO3
